US07524541B2
CBDA/DABA/DADOB(10)
19.22 g (0.098 mol) of CBDA as the tetracarboxylic dianhydride component, and 20.45 g (0.09 mol) of DABA and 2.92 g (0.01 mol) of DADOB, as the diamine component, were mixed in 230 g of GBL and reacted for 20 hours at room temperature to obtain a polyamic acid solution. The polymerization reaction proceeded easily and uniformly, and the reduced viscosity of the obtained polyamic acid was 1.48 dl/g. Further, NMP, GBL and BCS were added so that this solution comprised 4 wt % of the polyamic acid, 46 wt % of NMP, 30 wt % of GBL and 20 wt % of BCS, to obtain a liquid crystal aligning agent for comparison.

reactant | CBDA | 0.098 mol, 19.22 g | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O | C8H4O6
reactant | DABA | 0.09 mol, 20.45 g | CCN(CC)CC(=O)NC1=CC(=CC=C1)OCC2=CC=CC=C2 | C19H24N2O2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | CBDA DABA | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O.CCN(CC)CC(=O)NC1=CC(=CC=C1)OCC2=CC=CC=C2 | InChI=1S/C19H24N2O2.C8H4O6/c1-3-21(4-2)14-19(22)20-17-11-8-12-18(13-17)23-15-16-9-6-5-7-10-16;9-5-1-2(6(10)13-5)4-3(1)7(11)14-8(4)12/h5-13H,3-4,14-15H2,1-2H3,(H,20,22);1-4H
